US04973576
Iodotrimethylsilane (2.68 ml) was added to an ice-cooled solution of 2 g of tetraethyl [N-acetyl(5-methyl-3-isoxazolyl)amino]methylene-bis(phosphonate) in 20 ml of carbon tetrachloride. Then the temperature was allowed to rise to room temperature, and the mixture was stirred for 1 hour. The reaction mixture was concentrated, methanol was then added, and the mixture was again concentrated. The residue thus obtained was washed with ether, hexane and acetone to give a solid which was recrystallized from acetone-hexane to give 0.5 g of [N-acetyl(5-methyl-3-isoxazolyl)amino]methylene-bis(phosphonic acid) as crystals.

reactant | Iodotrimethylsilane | 2.68 ml | I[Si](C)(C)C | C3H9ISi
reactant | tetraethyl [N-acetyl(5-methyl-3-isoxazolyl)amino]methylene-bis(phosphonate) | 2 g | C(C)(=O)N(C1=NOC(=C1)C)C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C15H28N2O8P2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | [N-acetyl(5-methyl-3-isoxazolyl)amino]methylene-bis(phosphonic acid) | 0.5 g | C(C)(=O)N(C1=NOC(=C1)C)C(P(O)(O)=O)P(O)(O)=O | C7H12N2O8P2
